US06921763B2
A mixture of trans tert-butyl 4-{[4-amino-3-(3-methoxy-4-{[(2-phenylcyclopropyl)carbonyl]amino}phenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]methyl}-4-hydroxy-1-piperidinecarboxylate (0.08 g, 0.00013 mol) in acetone (12 mL) and 6 N aqueous hydrochloride solution (3 mL) was stirred at 40° C. for 2 hours. Acetone was removed under reduced pressure, and the residue was lyophilized to give trans N1-(4-{4-amino-1-[(4-hydroxy-4-piperidyl)methyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)-2-phenyl-1-cyclopropanecarboxamide hydrochloride salt (0.07 g, 0.00012 mol).

reactant | trans tert-butyl 4-{[4-amino-3-(3-methoxy-4-{[(2-phenylcyclopropyl)carbonyl]amino}phenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]methyl}-4-hydroxy-1-piperidinecarboxylate | 0.00013 mol, 0.08 g | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(=O)[C@H]2[C@@H](C2)C2=CC=CC=C2)OC)CC2(CCN(CC2)C(=O)OC(C)(C)C)O | C33H39N7O5
reactant | hydrochloride | 6 N, 3 mL | Cl | ClH
solvent | acetone | 12 mL | CC(=O)C | C3H6O
product | trans N1-(4-{4-amino-1-[(4-hydroxy-4-piperidyl)methyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)-2-phenyl-1-cyclopropanecarboxamide hydrochloride salt | 0.00012 mol, 0.07 g | Cl.NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(=O)[C@H]2[C@@H](C2)C2=CC=CC=C2)OC)CC2(CCNCC2)O | InChI=1S/C28H31N7O3.ClH/c1-38-22-13-18(7-8-21(22)33-27(36)20-14-19(20)17-5-3-2-4-6-17)24-23-25(29)31-16-32-26(23)35(34-24)15-28(37)9-11-30-12-10-28;/h2-8,13,16,19-20,30,37H,9-12,14-15H2,1H3,(H,33,36)(H2,29,31,32);1H/t19-,20+;/m0./s1
